data/rdb19/train.csv
rxn,smiles,ea
2547,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:31])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25][H:30])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29],25.33397077419795
5064,[C:11]([C:12]([C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])[H:22])([H:19])([H:20])[H:21].[C:1]([O:2][H:23])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],70.18359740416054
578,[C:3]([C:4](=[O:5])[O:6][C:7](=[C:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[O:1][H:2]>>[C:4](=[O:5])[O:6][C:7](=[C:8]([H:13])[H:14])[H:12].[O:1]([H:2])[C:3]([H:9])([H:10])[H:11],47.53674803729518
4619,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([C:18](=[O:19])[O:20][C:21]=[C:22]([H:27])[H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:26])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],25.881622579530813
894,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],17.442006900557317
5264,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2]([C:3]([H:4])([H:5])[H:29])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23][C:24](=[O:25])[H:30])[H:28])([H:26])[H:27],23.79672497598221
3061,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])([H:27])([H:28])[H:29].[C:1]([C:2]([H:12])[H:30])([H:8])([H:9])[H:10].[O:3]([C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:11],67.05760898353765
328,[C:4]([C:5](=[C:6]([H:13])[H:14])[C:7](=[O:8])[O:9][H:15])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[C:5](=[C:6]([H:13])[H:14])[C:7](=[O:8])[O:9][H:15].[O:1]([O:2][C:4]([H:10])([H:11])[H:12])[H:3],72.8438831421081
4104,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:23]([H:36])([H:37])[H:38])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32],55.51332827069564
3026,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:20]([C:18]([O:17][C:16]([H:23])([H:24])[H:25])([C:19]([H:27])([H:28])[H:29])[H:26])([H:21])[H:22],25.64935084548779
3461,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:19]([C:18]([C:17]([H:23])([H:24])[H:25])[C:20](=[O:21])[O:22][H:28])([H:26])[H:27])([H:9])[H:10])([H:6])([H:7])[H:8],10.547342657344416
951,[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([H:5])[N+:14]([C:15]([O-:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],37.80544728849782
